US09382356B2
(i) Synthesis of 6,6-di-2-naphthylfulvene
A 200-ml two-necked flask equipped with a magnetic stirrer and a three-way cock was thoroughly purged with nitrogen, and sequentially charged with 1.55 g (5.48 mmol) of di-2-naphthyl ketone produced by the method described in Heterocycles, vol. 40, No. 1, 79-83 (1995) and 40 ml of tetrahydrofuran. Then, 5.50 ml (11.0 mmol) of a 2.0 mol/l cyclopentadienyl sodium/tetrahydrofuran solution was gradually added while cooling the mixture in an ice water bath, and then the mixture was stirred at room temperature for 65 hours under a nitrogen atmosphere. Subsequently, 100 ml of 3 N hydrochloric acid and 100 ml of diethyl ether were gradually added. The two-layered solution thus obtained was transferred to a 300-ml separatory funnel and the funnel was shaken several times. The aqueous layer was then removed. This aqueous layer was subjected to extraction with 30 ml of diethyl ether once, and the extract was combined with the organic layer obtained previously. Subsequently, the organic layer obtained was washed 3 times with 100 ml of water and once with 100 ml of saturated brine, and dried over anhydrous magnesium sulfate for 2 hours. The solids were separated by filtration, and the solvent was distilled off to obtain solids. The solids were purified by separation using silica gel chromatography to obtain a target product (yield 1.21 g (67%)). The target product was identified by 1H-NMR spectroscopy.

reactant | di-2-naphthyl ketone | 5.48 mmol, 1.55 g | C1=C(C=CC2=CC=CC=C12)C(=O)C1=CC2=CC=CC=C2C=C1 | C21H14O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | cyclopentadienyl sodium tetrahydrofuran | 2.0 mol/l | C1(C=CC=C1)[Na].O1CCCC1
reactant | hydrochloric acid | 3 N, 100 ml | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 6,6-di-2-naphthylfulvene | C1=C(C=CC2=CC=CC=C12)C(=C1C=CC=C1)C1=CC2=CC=CC=C2C=C1 | C26H18
